US07238716B2
To a mixture of 6-[[2-(2-furyl)-5-methyl-4-oxazolyl]methoxy]nicotinonitrile (6.77 g) and anhydrous toluene (150 mL) was dropwise added a solution (0.95 M, 55.8 mL) of diisobutylaluminum hydride in hexane at −78° C. The reaction mixture was allowed to warm to room temperature with stirring for 1 hr. A saturated aqueous ammonium chloride solution (100 mL) was dropwise added to the mixture and the mixture was further stirred at room temperature for 30 min. Ethyl acetate was added to the mixture and the mixture was stirred at room temperature for 30 min. Insoluble materials were filtered off. The filtrate was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The obtained residue was subjected to silica gel column chromatography to give crystals (3.25 g, 47%) of 6-[[2-(2-furyl)-5-methyl-4-oxazolyl]methoxy]nicotinaldehyde from a fraction eluted with ethyl acetate-hexane (1:2, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 139-140° C.

reactant | 6-[[2-(2-furyl)-5-methyl-4-oxazolyl]methoxy]nicotinonitrile | 6.77 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=NC=C(C#N)C=C1)C | C15H11N3O3
reactant | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
reactant | diisobutylaluminum hydride | 0.95 M, 55.8 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 6-[[2-(2-furyl)-5-methyl-4-oxazolyl]methoxy]nicotinaldehyde | 3.25 g, 47% | O1C(=CC=C1)C=1OC(=C(N1)COC1=NC=C(C=O)C=C1)C | C15H12N2O4
